US06653347B2
To a solution of 4-cyano-2-methoxyaniline (1 mmol) in chloroform (1 mL) at −78° C. is added chlorosulfonic acid. Upon reaction completion, the crude material is concentrated and may be purified by recrystalization to give N-(4-cyano-2-methoxyphenyl)-sulfamic acid.

reactant | 4-cyano-2-methoxyaniline | 1 mmol | C(#N)C1=CC(=C(N)C=C1)OC | C8H8N2O
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-cyano-2-methoxyphenyl)-sulfamic acid | C(#N)C1=CC(=C(C=C1)NS(O)(=O)=O)OC | C8H8N2O4S
